US04022900
5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline was reacted with 4-methoxybenzoyl chloride according to the procedure of Example 19 to yield 5-(4-methoxybenzamido)2-methyl-1,2,3,4-tetrahydroisoquinoline; m.p. 169.5°-171.5° C. after purification from ethanol.

reactant | 5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 5-(4-methoxybenzamido)2-methyl-1,2,3,4-tetrahydroisoquinoline | COC1=CC=C(C(=O)NC2=C3CCN(CC3=CC=C2)C)C=C1 | C18H20N2O2
